US07517828B2
Magnesium (60.27 mmol) and tetrahydrofuran (30 mL) were put in a three-necked round bottom flask and stirred. To the solution, 2-bromonaphthalene (13.07 mmol) was added, and the reaction mixture was heated. After that, 2-bromonaphthalene (32.02 mmol) dissolved in tetrahydrofuran (30 mL) was added dropwise to the solution. The reaction mixture was heated and refluxed for 4.5 hours. After that, the mixture was cooled to −78° C. (EtO)3B (111.66 mmol) was added dropwise over 15 minutes. Then, the mixture was warmed to room temperature and stirred for additional 5 hours. Then, the mixture was cooled to 0° C. The reaction was quenched by the addition of 1 M hydrochloric acid stirring for 2 hours. The reaction mixture was extracted with diethyl ether three times. The combined extracts was washed with brine and dried over anhydrous sodium sulfate. After the drying, the extract was filtered. Then the filtrate was concentrated. The obtained solid was recrystallized in benzene to give GA40 (9 mmol, yield: 77%).

reactant | Magnesium | 60.27 mmol | [Mg] | Mg
reactant | 2-bromonaphthalene | 13.07 mmol | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | 2-bromonaphthalene | 32.02 mmol | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | (EtO)3B | 111.66 mmol | B(OCC)(OCC)OCC | C6H15BO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-naphthylboronic acid | 9 mmol, yield: 77% | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
